US07897616B2
N-(2-Methylbenzyl)-1-methyl-2-oxo-1,2-dihydroimidazo[4,5-b]pyridine-3-carboxamide
Analogously to Example 1, 75 mg (0.5 mmol) of 1-methyl-1,3-dihydroimidazo[4,5-b]pyridin-2-one were reacted with 74 mg (0.5 mmol) of 1-isocyanatomethyl-2-methylbenzene in dioxane at 80° C. Yield: 11 mg (7%), M+H+: 297.05.

reactant | 1-methyl-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 0.5 mmol, 75 mg | CN1C(NC2=NC=CC=C21)=O | C7H7N3O
reactant | 1-isocyanatomethyl-2-methylbenzene | 0.5 mmol, 74 mg | N(=C=O)CC1=C(C=CC=C1)C | C9H9NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(2-Methylbenzyl)-1-methyl-2-oxo-1,2-dihydroimidazo[4,5-b]pyridine-3-carboxamide | CC1=C(CNC(=O)N2C(N(C=3C2=NC=CC3)C)=O)C=CC=C1 | C16H16N4O2
